* Slow 5 V/us PWM edge using the unchanged TI UCC27511A transient model.
.include ../../../f2-shutdown-04/vendor/UCC27511A_TINA_TRANS/UCC27511A.lib
Vaux aux15 0 15
Vdisable disable 0 0
Vpwm pwm_input 0 PWL(0 0 2u 0 3u 5 5u 5 6u 0 8u 0)
Xdriver disable pwm_input aux15 0 outh outl UCC27511A
Rgon outh gate 10
Rgoff outl gate 10
Rgs gate 0 10k
Cgate gate 0 12n
.tran 1n 8u
.control
set numdgt=17
set wr_singlescale
set wr_vecnames
run
wrdata vendor-threshold.tsv v(pwm_input) v(outh) v(outl) v(gate) v(aux15) v(disable)
quit
.endc
.end
